US07939526B2
Solid Pt/C (0.9 g of 5%) was added to a suspension of N-{2-[2-(methylsulfonyl)ethoxy]ethyl}-3-nitroquinolin-4-amine (9 g, 26.5 mmol) in acetonitrile (133 mL) in a Parr vessel. The vessel was placed on a shaker and then pressurized with hydrogen to 50 psi (3.4×105 Pa). After 3 hours the reaction mixture was purged with nitrogen and then filtered through a layer of CELITE filter agent. The filter cake was washed with acetonitrile (200 mL) until the washes were clear. The filtrate was concentrated under reduced pressure to provide N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine as a yellow oil.

reactant | N-{2-[2-(methylsulfonyl)ethoxy]ethyl}-3-nitroquinolin-4-amine | 26.5 mmol, 9 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C14H17N3O5S
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 133 mL | C(C)#N | C2H3N
catalyst | Pt/C | 0.9 g | [Pt] | Pt
product | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
